US04431822
To a solution of N-(4-chloro-2-fluoro-5-hydroxyphenyl)-3,4,5,6-tetrahydrophthalimide (2.95 g) in dimethylformamide (20 ml), there was added anhydrous potassium carbonate (0.8 g) while stirring at room temperature. After stirring for 10 minutes at about 40° C., isopropyl iodide (1.7 g) was added thereto, and the resultant mixture was stirred for 3 hours at 70°-80° C. After being allowed to cool to room temperature, the mixture was poured into water and extracted with toluene. The toluene layer was washed with water, dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel chromatography to obtain 1.2 g of N-(4-chloro-2-fluoro-5-isopropoxyphenyl)3,4,5,6-tetrahydrophthalimide (Compound No. 1). M.P., 81°-82° C.

reactant | N-(4-chloro-2-fluoro-5-hydroxyphenyl)-3,4,5,6-tetrahydrophthalimide | 2.95 g | ClC1=CC(=C(C=C1O)N1C(C2=C(C1=O)CCCC2)=O)F | C14H11ClFNO3
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | 1.7 g | C(C)(C)I | C3H7I
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(4-chloro-2-fluoro-5-isopropoxyphenyl)3,4,5,6-tetrahydrophthalimide | 1.2 g | ClC1=CC(=C(C=C1OC(C)C)N1C(C2=C(C1=O)CCCC2)=O)F | C17H17ClFNO3
